US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidin-1-yl]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 6-fluoro-3-piperidine-4-yl-benzo[d]isoxazole (Table No.1, SM 8) in ethanol essentially as described above in Example 21. Purity by LC/MS=100%, [M+H]+=506.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 6-fluoro-3-piperidine-4-yl-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidin-1-yl]-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CN3CCC(CC3)C3=NOC4=C3C=CC(=C4)F)O)C=C2)C=C1 | C28H25F2N3O4
